US07968725B2
e) [2-[Isobutyl-(4-trifluoromethyl-phenyl)-amino]-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-acetic acid methyl ester
A solution of LDA (1.8 M in THF/heptane/ethyl benzene, 340 mL, 0.6 mmol) was added slowly to a stirred solution of isobutyl-[4-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-(4-trifluoromethyl-phenyl)-amine (135 g, 0.3 mmol) under N2 at −78° C. After 30 minutes dimethyl carbonate (55 mg, 0.6 mmol) was added. After stirring at −78° C. for 30 minutes, the solution was allowed to warm up slowly and stirred at 0° C. for 30 minutes. The reaction was quenched with saturated aqueous NH4Cl (1 mL). The mixture was partitioned between CH2Cl2 and H2O. The aqueous layer was extracted with CH2Cl2 (2×). The combined extracts were washed with brine, then dried (Na2SO4), filtered and evaporated. The residue was purified by column chromatography on silica gel (40-80% CH2Cl2 in heptane) to give the product as light yellow oil (75 mg, 49%). 1H NMR (300 MHz, CDCl3) δ 8.12 (d, J=7.91 Hz, 2H), 7.70 (d, J=8.29 Hz, 2H), 7.65 (d, J=8.29 Hz, 2H), 7.40 (d, J=8.29 Hz, 2H), 7.14 (s, 1H), 6.50 (s, 1H), 3.96 (d, J=7.16 Hz, 2H), 3.69 (s, 3H), 3.51 (s, 2H), 2.05-2.22 (m, 1H), 0.98 (d, J=6.78 Hz, 6H). MS m/e 511.2 (M+H).

reactant | LDA | 0.6 mmol, 1.8 M, 340 mL | [Li+].CC(C)[N-]C(C)C
reactant | isobutyl-[4-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-(4-trifluoromethyl-phenyl)-amine | 0.3 mmol, 135 g | C(C(C)C)N(C1=CC=C(C=C1)C(F)(F)F)C1=NC(=CC(=C1)C)C1=CC=C(C=C1)C(F)(F)F | C24H22F6N2
reactant | dimethyl carbonate | 0.6 mmol, 55 mg | C(OC)(OC)=O | C3H6O3
product | [2-[Isobutyl-(4-trifluoromethyl-phenyl)-amino]-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-acetic acid methyl ester | 75 mg, 49% | COC(CC1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)N(C1=CC=C(C=C1)C(F)(F)F)CC(C)C)=O | C26H24F6N2O2
